US05011849
The ethyl 5-(3,5-difluorophenyl)-4-thiazolecarboxylate was saponified in an analogous manner to that described in Example 1(D). whereby after acidification there was obtained 5-(3,5-difluorophenyl)-4-thiazolecarboxylic acid in 97% yield, melting point 200° (from water).

reactant | ethyl 5-(3,5-difluorophenyl)-4-thiazolecarboxylate | FC=1C=C(C=C(C1)F)C1=C(N=CS1)C(=O)OCC | C12H9F2NO2S
solvent | water | O | H2O
product | 5-(3,5-difluorophenyl)-4-thiazolecarboxylic acid | 97% yield | FC=1C=C(C=C(C1)F)C1=C(N=CS1)C(=O)O | C10H5F2NO2S
